US05811553
7-hydroxy-2-phenylquinoline-4-carboxylic acid hydroiodide
1.5 g (5.4 mmol) of 7-methoxy-2-phenylquinoline-4-carboxylic acid were added portionwise to 50 ml of 57% aqueous HI. The reaction mixture was refluxed and vigourously stirred for 5 hours; then it was evaporated in-vacuo to dryness to yield 2.1 g of the title compound.

reactant | 7-methoxy-2-phenylquinoline-4-carboxylic acid | 5.4 mmol, 1.5 g | COC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)C(=O)O | C17H13NO3
reactant | HI | 50 ml | I | HI
product | 7-hydroxy-2-phenylquinoline-4-carboxylic acid hydroiodide | 2.1 g | I.OC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)C(=O)O | InChI=1S/C16H11NO3.HI/c18-11-6-7-12-13(16(19)20)9-14(17-15(12)8-11)10-4-2-1-3-5-10;/h1-9,18H,(H,19,20);1H
